### PR TITLE
[Merged by Bors] - refactor: nicer well-founded function definitions

### PR DESCRIPTION
**Pull request by nomeata**
by preferring `decreasing_by` over inline proofs, the resulting
equational theorems are nicer.

Also we can use functional induction in one case rather nicely.

### CODE REVIEW

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -920,18 +920,19 @@ def reverseRecOn {motive : List α → Sort*} (l : List α) (nil : motive [])
...
+  simp_wf
+  rw [← length_reverse l, h, length_cons]
+  simp [Nat.lt_succ]
 #align list.reverse_rec_on List.reverseRecOn
 
 @[simp]
 theorem reverseRecOn_nil {motive : List α → Sort*} (nil : motive [])
     (append_singleton : ∀ (l : List α) (a : α), motive l → motive (l ++ [a])) :
-    reverseRecOn [] nil append_singleton = nil := rfl
+    reverseRecOn [] nil append_singleton = nil := reverseRecOn.eq_1 ..
```
Comment (jcommelin) [inline Mathlib/Data/List/Basic.lean:935]: Mathlib typically tries to avoid explicitly mentioning these auto-generated equation lemmas. Is it possible to prove this using some unfolding/simping?

(If not, I don't think it's a deal breaker for this PR :smile:)

**Review by jcommelin — COMMENTED** [review]
LGTM, one comment

bors d+

File: Mathlib/Data/List/Basic.lean (hunk 1 above)
Comment (nomeata) [reply Mathlib/Data/List/Basic.lean:935]: Now that these are now longer internal (`.eq_1` instead of `._eq_1`) I wonder if that policy still should be there. My impression is that they have become “normal to use”.

This can be proven using other tactics, of course, or `unseal` + `rfl`. On the train though, and the mathlib cache is too much for the WiFi here :-)

Comment (nomeata) [reply Mathlib/Data/List/Basic.lean:935]:
```suggestion
    reverseRecOn [] nil append_singleton = nil := by unfold reverseRecOn; rfl
```

File: Mathlib/Data/List/Basic.lean [hunk 2]
```diff
@@ -977,15 +978,15 @@ termination_by l => l.length
 theorem bidirectionalRec_nil {motive : List α → Sort*}
     (nil : motive []) (singleton : ∀ a : α, motive [a])
     (cons_append : ∀ (a : α) (l : List α) (b : α), motive l → motive (a :: (l ++ [b]))) :
-    bidirectionalRec nil singleton cons_append [] = nil :=
-  rfl
+    bidirectionalRec nil singleton cons_append [] = nil := bidirectionalRec.eq_1 ..
```
Comment (nomeata) [inline Mathlib/Data/List/Basic.lean:981]:
```suggestion
    bidirectionalRec nil singleton cons_append [] = nil := by
  unfold bidirectionalRec; rfl
```
